US07737166B2
tert-Butyl N-(1-benzhydrylazetidin-3-yl)-N-methylcarbamate (I-149)
N-(1-Benzhydrylazetidin-3-yl)-N-methylamine (0.30 g, 1.19 mmol) was dissolved in dichloromethane (6 ml), then a dichloromethane solution (dichloromethane, 4 ml) of di-tert-butyl dicarbonate (0.32 g, 1.47 mmol) was added, followed by stirring at room temperature for 1 hour. The reaction liquid was purified by silica gel column chromatography (dichloromethane:methanol=50:1) to obtain a colorless solid (0.40 g, 95%).

reactant | N-(1-Benzhydrylazetidin-3-yl)-N-methylamine | 1.19 mmol, 0.30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC | C17H20N2
reactant | di-tert-butyl dicarbonate | 1.47 mmol, 0.32 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-Butyl N-(1-benzhydrylazetidin-3-yl)-N-methylcarbamate | 0.40 g, 95% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N(C(OC(C)(C)C)=O)C | C22H28N2O2
